US08071586B2
A) (S)-2-amino-4-benzyloxy-butan-1-ol
Borane-tetrahydrofuran complex (1 M in tetrahydrofuran, 60 mL, 60 mmol) was added at 0° C. to a suspension of O-benzyl-L-homoserine (5.06 g, 24.1 mmol) in tetrahydrofuran (100 mL). The ice bath was removed, and the reaction mixture was stirred for 72 h at room temperature, then the reaction was stopped by careful addition of methanol (40 mL). After evaporation of volatile material, the residue was taken up in 5% methanolic sulfuric acid solution (50 mL). The solution was heated at reflux for 2 h, then concentrated in vacuo. The residue was partitioned between ethyl acetate and 1 M aq. sodium hydroxide solution, the aqueous layer was saturated with sodium chloride and extracted with ethyl acetate three times. The combined organic phases were dried (MgSO4), filtered, and evaporated to afford the title compound (5.02 g), which was directly used in the next step. Colorless oil, MS (ISP)=196.1 (M+H)+.

reactant | Borane tetrahydrofuran | 60 mmol, 1 M, 60 mL | B.O1CCCC1
reactant | O-benzyl-L-homoserine | 24.1 mmol, 5.06 g | C(C1=CC=CC=C1)OCC[C@H](N)C(=O)O | C11H15NO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (S)-2-amino-4-benzyloxy-butan-1-ol | 5.02 g | N[C@H](CO)CCOCC1=CC=CC=C1 | C11H17NO2
